US07273879B2
Into 3 g of N,N-dimethylformamide were dissolved 350 mg of 5-chloro-3-benzyloxymethylthio-1,2,4-thiadiazole and 153 mg of benzyl alcohol, 68 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 30 minutes. After stirring for 2 hours at room temperature, the reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 260 mg of 5-bezyloxy-3-benzyloxymethythio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (43)).

reactant | 5-chloro-3-benzyloxymethylthio-1,2,4-thiadiazole | 350 mg | ClC1=NC(=NS1)SCOCC1=CC=CC=C1 | C10H9ClN2OS2
reactant | benzyl alcohol | 153 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 68 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 g | CN(C=O)C | C3H7NO
product | 5-bezyloxy-3-benzyloxymethythio-1,2,4-thiadiazole | 260 mg | C(C1=CC=CC=C1)OC1=NC(=NS1)SCOCC1=CC=CC=C1 | C17H16N2O2S2
